US08975254B2
c) 5-(3-chloro-4-cyanophenyl)-1H-pyrazole-4-carbonitrile
To a solution containing 5-(3-chloro-4-cyanophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carbonitrile (2.686 g, 8.59 mmol) dissolved in ethanol (25 ml), 10% HCl solution in ethanol (50 ml) was added and the resulting mixture was stirred overnight. The crude product was extracted with DCM/water. The pH of the aqueous phase was adjusted to 12 by adding 2 M NaOH. The aqueous phase was again extracted with DCM. The combined organic phases were dried with Na2SO4, filtered and evaporated. The product was purified by flash chromatography. 1H-NMR (400 MHz; DMSO-d6): δ 8.00-8.05 (m, 1H), 8.13-8.19 (m, 2H), 8.75 (s, 1H), 14.24 (s, 1H).

reactant | 5-(3-chloro-4-cyanophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carbonitrile | 8.59 mmol, 2.686 g | ClC=1C=C(C=CC1C#N)C1=C(C=NN1C1OCCCC1)C#N | C16H13ClN4O
reactant | HCl | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-(3-chloro-4-cyanophenyl)-1H-pyrazole-4-carbonitrile | ClC=1C=C(C=CC1C#N)C1=C(C=NN1)C#N | C11H5ClN4
